US09056859B2
To a solution of (4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetic acid (100 mg, 0.48 mmol) in anhydrous DCM (10 mL) was added 1,1-dimethylethyl-N,N-bis(1-methylethyl)imidocarbamate (485 mg, 2.50 mmol) dropwise at 0° C. under N2. Then the mixture was stirred at r.t. over night. The mixture was filtered and the filtrate was washed with 2N HCl and brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by preparative TLC to give 1,1-dimethylethyl (4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate. 1H-NMR (400 MHz, CDCl3) δ 6 ppm 7.70 (d, J=7.8 Hz, 1H), 7.38 (d, J=7.0 Hz, 1H), 5.25 (s, 2H), 3.67 (s, 3H), 2.27 (s, 3H), 1.44 (s, 9H).

reactant | (4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetic acid | 0.48 mmol, 100 mg | CC1=C(C=CC=2C(OCC21)=O)CC(=O)O | C11H10O4
reactant | 1,1-dimethylethyl-N,N-bis(1-methylethyl)imidocarbamate | 2.50 mmol, 485 mg | CC(C)(C)N=C(N(C(C)C)C(C)C)[O-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate | CC1=C(C=CC=2C(OCC21)=O)CC(=O)OC(C)(C)C | C15H18O4
